US05109012
2-(2,6-Dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde [15 g) and methyl methylthiomethyl sulphoxide (6 ml) were heated under reflux in tetrahydrofuran (100 ml) containing Triton B solution (6 ml; 40% in methanol) for 12 hours. The mixture was worked up to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylthio-2-methylsulphinylvinyl)- 2H-1,2,3-triazole, m.p. 122°-123°.

reactant | 2-(2,6-Dichloro-4-trifluoromethylphenyl)-2H-1,2,3-triazole-4-carboxaldehyde | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C=O | C10H4Cl2F3N3O
reactant | methyl methylthiomethyl sulphoxide | 6 ml | CSCS(=O)C | C3H8OS2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-methylthio-2-methylsulphinylvinyl)- 2H-1,2,3-triazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=N1)C=C(S(=O)C)SC | C13H10Cl2F3N3OS2
